US04291058
A suspension of 5.3 g of 1-butyn-3-ol and 5 g of 1-naphthoyl chloride is cooled to -10° C. and 3.1 ml. of 35% sodium hydroxide are slowly added dropwise. The mixture is warmed to room temperature and stirred until it is neutral. The mixture is poured into ice-water and then extracted with ether. The ether solution is washed with 10% sodium hydroxide and with water and dried. After the ether is distilled off, the residue is recrystallized from methanol to yield 1-methyl-2-propynyl 1-naphthoate, m.p. 66°-68° C.

reactant | 1-butyn-3-ol | 5.3 g | C#CC(C)O | C4H6O
reactant | 1-naphthoyl chloride | 5 g | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-methyl-2-propynyl 1-naphthoate | C1(=CC=CC2=CC=CC=C12)C(=O)OC(C#C)C | C15H12O2
